US09428452B2
4-ethyl-N-isobutylaniline
To potassium iodide (5342 mg, 32.2 mmol), [Cp*IrCl2]2 (128 mg, 0.161 mmol) and 4-ethylaniline (2 mL, 16.09 mmol) at room temperature, was added 2-methylpropan-1-ol (5.94 mL, 64.4 mmol), followed by water (10 mL). The reaction vessel was sealed and heated by microwaves (Biotage Initiator) to 150° C. for 90 minutes. After cooling the reaction mixture was diluted with water (10 mL) and dichloromethane (20 mL) then stirred vigorously for 3 minutes. The organic phase was separated by hydrophobic frit. The aqueous phase was diluted with further dichloromethane (10 mL) and again stirred vigorously for 2 minutes, then the organics separated by hydrophobic frit. The combined organic fractions were evaporated in vacuo to give the crude product as a brown oil. The crude was purified by silica (Si) chromatography (0-50% dichloromethane-cyclohexane gradient). The appropriate fractions were combined and evaporated in vacuo to give the required product, 2.612 g, as a pale yellow oil. LCMS [LCMS1] Rt 0.96 min, m/z (ES+) 178 (M+H).

reactant | potassium iodide | 32.2 mmol, 5342 mg | [I-].[K+]
reactant | 4-ethylaniline | 16.09 mmol, 2 mL | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | 2-methylpropan-1-ol | 64.4 mmol, 5.94 mL | CC(CO)C | C4H10O
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 4-ethyl-N-isobutylaniline | C(C)C1=CC=C(NCC(C)C)C=C1 | C12H19N
